US08304371B2
To a mixed solution of methyl iodide (0.60 g) and (4{[(trimethylsilyl)methyl]carbamothioyl}naphthalen-1-yl)methyl acetate (1.2 g) in THF (30 ml) was added potassium t-butoxide (0.45 g) gradually, and the mixture was stirred for 20 minutes at the same temperature. The mixture was diluted with t-butyl methyl ether and washed with water and a saturated aqueous brine, subsequently dried over magnesium sulfate. After filtering the reaction mixture, the solvent was distilled off under reduced pressure, to obtain {4-[(Z)-(methylsulfanyl){[(trimethylsilyl)methyl]imino}methyl]naphthalen-1-yl}methyl acetate (1.1 g).

reactant | methyl iodide | 0.60 g | CI | CH3I
reactant | (4{[(trimethylsilyl)methyl]carbamothioyl}naphthalen-1-yl)methyl acetate | 1.2 g | C(C)(=O)OCC1=CC=C(C2=CC=CC=C12)C(NC[Si](C)(C)C)=S | C18H23NO2SSi
reactant | potassium t-butoxide | 0.45 g | CC(C)([O-])C.[K+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | t-butyl methyl ether | COC(C)(C)C | C5H12O
product | {4-[(Z)-(methylsulfanyl){[(trimethylsilyl)methyl]imino}methyl]naphthalen-1-yl}methyl acetate | 1.1 g | C(C)(=O)OCC1=CC=C(C2=CC=CC=C12)/C(=N/C[Si](C)(C)C)/SC | C19H25NO2SSi
